US04010159
5-Methyl-7-phenyl-6H-pyrrolo[3,4-d]pyrimidine-4(3H)-one
A mixture of 3 g. (0.0107 mole) of 3-amino-4-carbethoxy-5-methyl-2-phenyl-pyrrole hydrochloride and 20 ml. (0.242 mole) of formamide are cautiously heated at 160° C for 16 hours. Upon cooling to room temperature the title compound precipitates as a solid substance, which is recovered by filtration and washed with water.

reactant | 3-amino-4-carbethoxy-5-methyl-2-phenyl-pyrrole hydrochloride | 0.0107 mole | Cl.NC1=C(NC(=C1C(=O)OCC)C)C1=CC=CC=C1
reactant | formamide | 0.242 mole | C(=O)N | CH3NO
product | 5-Methyl-7-phenyl-6H-pyrrolo[3,4-d]pyrimidine-4(3H)-one | CC=1NC(=C2N=CNC(C21)=O)C2=CC=CC=C2 | C13H11N3O
